US04568686
(a) 2-(2',6'-dimethylphenyl)ethylglyoxal diethyl acetal
9 g of magnesium turnings are covered with 400 ml of dry tetrahydrofuran and the mixture is warmed to boiling. To that mixture is then added 2-(2',6'-dimethylphenyl)-1-bromoethane at such a rate that a gentle boiling is maintained. When the magnesium turnings have reacted the solution containing the Grignard reagent is cooled to room temperature. The reaction mixture is then added dropwise, over a period of 3 hours, to a cooled (0°-5° C.) solution of diethoxyacetic acid piperidinyl amide (80.8 g) in 200 ml of dry tetrahydrofuran. After the addition is complete, the reaction mixture is stirred for two hours at about 5° C. The mixture is then poured into a cold 2% sulfuric acid solution (1000 ml). The solution is extracted with toluene and the combined toluene extracts are washed with water and evaporated to dryness to give a residue of about 95 g. The residue is distilled under reduced pressure. The forefraction distilling below 120° C./0.6 mmHg is discarded and the rest, about 66 g, is crude 2-(2',6'-dimethylphenyl)-ethylglyoxal diethyl acetal, which is used without purification in step (b).

reactant | magnesium | 9 g | [Mg] | Mg
reactant | 2-(2',6'-dimethylphenyl)-1-bromoethane | CC1=C(C(=CC=C1)C)CCBr | C10H13Br
reactant | diethoxyacetic acid piperidinyl amide | 80.8 g | N1(CCCCC1)NC(C(OCC)OCC)=O | C11H22N2O3
reactant | sulfuric acid | 1000 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-(2',6'-dimethylphenyl)ethylglyoxal diethyl acetal | C(C)OC(C=O)(CCC1=C(C=CC=C1C)C)OCC | C16H24O3
